US04272545
A mixture of 850 mg of 1-[4-(5-chloro-2-thienyl)-2-chloro-n-butyl]imidazole, 670 mg of 2-chlorothiophenol and 500 mg of potassium carbonate in 40 ml of acetone is stirred and refluxed for 4 hours. The solvent is evaporated under vacuum and 50 ml of water is added. The resulting mixture is extracted with ether and the ether extract is washed with water, dried and evaporated to afford 1-[2-(2-chlorophenylthio)-4-(5-chloro-2-thienyl)-n-butyl]imidazole as an oil. This material is converted to the nitrate salt by treatment with nitric acid, which salt is recrystallized from acetone/ethyl acetate as colorless flakes, mp 121°-122°.

reactant | 1-[4-(5-chloro-2-thienyl)-2-chloro-n-butyl]imidazole | 850 mg | ClC1=CC=C(S1)CCC(CN1C=NC=C1)Cl | C11H12Cl2N2S
reactant | 2-chlorothiophenol | 670 mg | ClC1=C(C=CC=C1)S | C6H5ClS
reactant | potassium carbonate | 500 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 1-[2-(2-chlorophenylthio)-4-(5-chloro-2-thienyl)-n-butyl]imidazole | ClC1=C(C=CC=C1)SC(CN1C=NC=C1)CCC=1SC(=CC1)Cl | C17H16Cl2N2S2
